US08389720B2
2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethanaminium chloride
To phenyl(tetrahydro-4H-pyran-4-ylidene)acetonitrile (450 mg, 2.258 mmol) in ethanol (11 ml) was added HCl (12.1 M, 1.867 ml, 22.58 mmol) then 10% Pd/C (48.1 mg, 0.045 mmol) as a slurry in ethanol. The reaction mixture was put under H2 balloon pressure for 21 hours. The reaction was filtered through a 0.45 um syringe-tip filter, then concentrated in vacuo. The product was used without further purification.

reactant | phenyl(tetrahydro-4H-pyran-4-ylidene)acetonitrile | 2.258 mmol, 450 mg | C1(=CC=CC=C1)C(C#N)=C1CCOCC1 | C13H13NO
reactant | HCl | 22.58 mmol, 12.1 M, 1.867 ml | Cl | ClH
solvent | ethanol | 11 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.045 mmol, 48.1 mg | [Pd] | Pd
product | 2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethanaminium chloride | [Cl-].C1(=CC=CC=C1)C(C[NH3+])C1CCOCC1 | InChI=1S/C13H19NO.ClH/c14-10-13(11-4-2-1-3-5-11)12-6-8-15-9-7-12;/h1-5,12-13H,6-10,14H2;1H
